US06683184B2
1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-butylph-enyl)-piperazine
Phenyl N-(2-methoxyquinoxalin-3-yl)carbamate and 1-(4-butylphenyl)-piperazine were reacted by the same way with the example 36 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=CC=C2N=C1NC(OC1=CC=CC=C1)=O | C16H13N3O3
reactant | 1-(4-butylphenyl)-piperazine | C(CCC)C1=CC=C(C=C1)N1CCNCC1 | C14H22N2
product | 1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-butylph-enyl)-piperazine | yield: 65.4% | COC1=NC2=CC=CC=C2N=C1NC(=O)N1CCN(CC1)C1=CC=C(C=C1)CCCC | C24H29N5O2
